US07465795B2
2-Cyano-N-cyclopropylacetamide
To a flask charged with cyclopropylamine (12.3 g, 215.3 mmol) was added ethyl cyanoacetate (9.8 g, 86.1 mmol). The reaction was stirred at 45° C. for 1.5 hour, cooled and concentrated under reduced pressure to give 10.7 g title compound (˜100%) as a light yellow solid. 1H NMR (300.132 MHz, CDCl3) δ 6.20 (bs, 1H), 3.34 (s, 2H), 2.75 (m, 2H), 0.83 (m, 2H), 0.59 (m, 2H).

reactant | cyclopropylamine | 215.3 mmol, 12.3 g | C1(CC1)N | C3H7N
reactant | ethyl cyanoacetate | 86.1 mmol, 9.8 g | C(#N)CC(=O)OCC | C5H7NO2
product | 2-Cyano-N-cyclopropylacetamide | 10.7 g, ~100% | C(#N)CC(=O)NC1CC1 | C6H8N2O
